US04536342
55.8 g (0.6 mol) of aniline and 200 ml of a 25% hydrochloric acid aqueous solution were mixed to obtain a suspension of aniline hydrochloride. While cooling this solution to a temperature of from 0° to 10° C. from outside and stirring it, a solution prepared by dissolving 42.5 g (0.615 mol) of sodium nitrite in 85 ml of distilled water, was dropwise added over a period of about 4 hours. After the completion of the dropwise addition, the reaction mixture was stirred for about 1 hour at a temperature of from 0° to 10° C. To this solution, 200 ml of methanol and 95.4 g (1.8 mols) of acrylonitrile were added, and while stirring the mixture under cooling, 5 g of cuprous oxide powder was gradually added. The reaction mixture was stirred at a temperature of from 10° to 20° C. for 4 hours, and then methanol and unreacted acrylonitrile were distilled off by distillation. The residual solution was separated into an aqueous phase and an organic phase. The organic phase was subjected to distillation under reduced pressure, whereby 87 g (yield: 88%) of α-chloro-β-phenylpropionitrile was obtained. (b.p.: 105°-110° C./4 mmHg).

reactant | aniline | 0.6 mol, 55.8 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
reactant | aniline hydrochloride | Cl.NC1=CC=CC=C1
reactant | sodium nitrite | 0.615 mol, 42.5 g | N(=O)[O-].[Na+]
reactant | acrylonitrile | 1.8 mols, 95.4 g | C(C=C)#N | C3H3N
solvent | water | 85 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | α-chloro-β-phenylpropionitrile | 87 g, yield: 88% | ClC(C#N)CC1=CC=CC=C1 | C9H8ClN
